US07351825B2
1-(2-chloro-1-methyl-1-methylsulfanyl-ethyl)-4-fluoro-benzene (step 1-3)
While cooling to −40° C., sulfuryl chloride (2.9 mL, 37 mmol) was added dropwise to a solution of dimethyl disulfide (3.3 mL, 37 mmol) in 1,2-dimethoxyethane (20 mL) under nitrogen atmosphere, and the mixture was stirred for 10 min. The obtained solution was added dropwise to a solution of 4-fluoro-α-methylstyrene (10 g, 73 mmol) in 1,2-dimethoxyethane (20 mL) while maintaining a temperature below −30° C. After stirring for 1 hour at room temperature, the solution was evaporated to give a crude product of the title compound. The obtained product was used in the next step without further purification.

reactant | sulfuryl chloride | 37 mmol, 2.9 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dimethyl disulfide | 37 mmol, 3.3 mL | CSSC | C2H6S2
reactant | 4-fluoro-α-methylstyrene | 73 mmol, 10 g | FC1=CC=C(C(=C)C)C=C1 | C9H9F
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 1-(2-chloro-1-methyl-1-methylsulfanyl-ethyl)-4-fluoro-benzene | ClCC(SC)(C)C1=CC=C(C=C1)F | C10H12ClFS
